US04381313
110 g of 2-(4-isobutylphenyl)butyric acid and 89 g of thionyl chloride are heated on a water bath until the gas evolution ceases. An excess of thionyl chloride is removed by distillation, A residue of 117 g of 2-(4-isobutylphenyl)butyric chloride is obtained.

reactant | 2-(4-isobutylphenyl)butyric acid | 110 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)CC | C14H20O2
reactant | thionyl chloride | 89 g | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-isobutylphenyl)butyric chloride | 117 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)CC | C14H19ClO
